US05472964
Step 1: 3-(1-Hydroxy-2-propen-1-yl)benzonitrile
To 3-cyanobenzaldehyde (25 g, 0.190 mmol) in THF (576 mL) was added dropwise at -10° C. vinyl magnesium bromide in THF (202 mL, 0.201 mmol). After 15 min, the reaction mixture was poured on cold 25% aqueous ammonium acetate solution and extracted with EtOAc. The resulting mixture was purified by flash chromatography to provide 17.5 g (60%) of the title product.

reactant | 3-cyanobenzaldehyde | 0.190 mmol, 25 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | THF | 576 mL | C1CCOC1 | C4H8O
solvent | THF | 0.201 mmol, 202 mL | C1CCOC1 | C4H8O
product | 3-(1-Hydroxy-2-propen-1-yl)benzonitrile | 17.5 g, 60% | OC(C=C)C=1C=C(C#N)C=CC1 | C10H9NO
